US06410556B1
To a solution of 2-amino-7-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (80 mg, 0.20 mmol) and diisopropyl ethylamine (35 μl, 0.40 mmol) in acetonitrile (10 ml) at room temperature was added a solution of 6-bromomethyl-2-(tert-butyl-dimethyl-silanyloxy)-benzoic acid ethyl ester (69 mg, 0.20 mmol). The solution was stirred for 12 hours at room temperature and the solvent was evaporated in vacuo. The residue was dissolved in ethyl acetate (50 ml) and washed with water, 1 N hydrochloric acid, brine, dried (MgSO4), filtered and the solvent evaporated in vacuo. The residue was chromatographed on silica gel column eluted with 20% ethyl acetate/hexane to yield 42 mg (33%) of 2-amino-7-(7-(tert-butyl-dimethyl-silanyloxy)-1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester as an oil.

reactant | 2-amino-7-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.20 mmol, 80 mg | C(C)(C)(C)OC(=O)C1=C(SC=2C(N(CCC21)CC2=CC=C(C=C2)OC)CN)N | C21H29N3O3S
reactant | diisopropyl ethylamine | 0.40 mmol, 35 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-bromomethyl-2-(tert-butyl-dimethyl-silanyloxy)-benzoic acid ethyl ester | 0.20 mmol, 69 mg | C(C)OC(C1=C(C=CC=C1CBr)O[Si](C)(C)C(C)(C)C)=O | C16H25BrO3Si
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-amino-7-(7-(tert-butyl-dimethyl-silanyloxy)-1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 42 mg, 33% | C(C)(C)(C)OC(=O)C1=C(SC=2C(N(CCC21)CC2=CC=C(C=C2)OC)CN2C(C1=C(C=CC=C1C2)O[Si](C)(C)C(C)(C)C)=O)N | C35H47N3O5SSi
